US08802659B2
2-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanol
To a solution of [6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-acetic acid ethyl ester (250 mg, 0.68 mmol) in THF (10 mL) was added 1.0 M of lithium tetrahydroaluminate in THF (2 mL, 2 mmol) at 0° C. After stirred at room temperature for 2 hrs, the solution was quenched with ethyl acetate (1 mL), then added Rochelle's salt aqueous (1.5 mL). The solution was stirred for 1 hr, then extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated. The resulting crude was purified via a silica gel column eluted with EtOAc in hexanes from 0 to 60% to give white precipitate (0.17 g, yield: 77%). ESI-MS: 327.20 (M+H)+.

reactant | [6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-acetic acid ethyl ester | 0.68 mmol, 250 mg | C(C)OC(CC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C24H32O3
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mmol, 2 mL | C1CCOC1 | C4H8O
product | 2-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanol | 0.17 g, yield: 77% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CCO | C22H30O2
